US08110571B2
In a 10 cm3 tube, 200 mg of methyl(6-hydroxy-1,3-benzothiazol-2-yl)carbamate are suspended in 6 cm3 of 1-methyl-pyrrolidin-2-one, and 580 mg of 2-morpholin-4-ylethylamine are added. After closing, the tube is placed in the microwave oven at a temperature in the region of 150° C. for about 25 minutes. After concentrating to dryness under reduced pressure, the residue obtained is purified by flash chromatography on a column of silica [eluent: dichloromethane/methanol (95/5 by volume)]. 270 mg of 1-(6-hydroxy-1,3-benzothiazol-2-yl)-3-(2-morpholin-4-ylethyl)urea are thus obtained in the form of a resin, the characteristics of which are as follows:

reactant | methyl(6-hydroxy-1,3-benzothiazol-2-yl)carbamate | 200 mg | COC(NC=1SC2=C(N1)C=CC(=C2)O)=O | C9H8N2O3S
reactant | 2-morpholin-4-ylethylamine | 580 mg | N1(CCOCC1)CCN | C6H14N2O
solvent | 1-methyl-pyrrolidin-2-one | 6 cm3 | CN1C(CCC1)=O | C5H9NO
product | 1-(6-hydroxy-1,3-benzothiazol-2-yl)-3-(2-morpholin-4-ylethyl)urea | 270 mg | OC1=CC2=C(N=C(S2)NC(=O)NCCN2CCOCC2)C=C1 | C14H18N4O3S
